US05538976
5-[N-Benzyl-N-(4-cyanophenyl)amino]pyrimidine
Starting compounds: 5-[N-(4-cyanophenyl)amino]pyrimidine and benzyl bromide

reactant | 5-[N-(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-[N-Benzyl-N-(4-cyanophenyl)amino]pyrimidine | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)C#N)C=1C=NC=NC1 | C18H14N4
